* ============================================================
* Negative transients -- ISO 7637-2 pulses 1 and 3a into the
* battery input
* ============================================================
* transient_clamp.cir (pulse 2a) and load_dump.cir (pulse 5b) are
* both POSITIVE excursions. Spec sec.6 requires ISO 7637-2 in full,
* and the standard's two worst NEGATIVE pulses have never been
* modelled -- not because they were judged less important, but
* because until 19 Sep 2026 the TVS in this repo was a single
* diode, which conducts forward at 0.7 V in reverse polarity. A
* negative-pulse question put to that model would have gotten a
* confident, silently wrong answer. TVSBI (below, copied verbatim
* from transient_clamp.cir) is what makes this block answerable at
* all.
*
* Severity parameters -- SOURCED, research memo 06 (docs/research/
* 06-standards.md), Step 2 table, itself drawn from an ON
* Semiconductor technical note reproducing the ISO 7637-2:2011(E)
* severity table (secondary source, standard text itself not
* accessed -- memo 06's own caveat, carried forward here unchanged):
*
*     Pulse 1  (supply disconnection, inductive load switch-off)
*         amplitude          -150 V   (Level IV, 12 V system)
*         source impedance    10 ohm
*         pulse width          2 ms
*
*     Pulse 3a (fast transient bursts, switching-type, EFT-like)
*         amplitude          -220 V   (Level IV, 12 V system)
*         source impedance    50 ohm
*         pulse width         0.1 ms
*         repetition          90 ms min. repeat, 1 hr test time
*
* Both Level IV -- the same "worst case for the question this block
* asks" reasoning transient_clamp used picking Level IV for 2a.
* Neither figure is INFERRED; both are in memo 06's own table.
*
* Pulse shape: a trapezoid (fast ramp, flat top, fast ramp), the
* same simplification transient_clamp and load_dump already use,
* not the real waveform's shape (pulse 1 is closer to a decaying
* exponential in the real standard; pulse 3a's real edges are far
* faster than what is used here, ~ns, which no downstream node in
* this circuit could distinguish from the faster-than-Rsrc*C
* transitions used instead). Amplitude is added to the 13.5 V
* nominal rail (13.5 - 150 = -136.5 V, 13.5 - 220 = -206.5 V),
* matching transient_clamp's own additive convention -- the 13.5 V
* offset is under 10% of either pulse and does not change any
* conclusion below.
*
* Pulse 3a is simulated as a BURST of 5 repeats at the standard's
* OWN minimum 90 ms spacing (worst case for accumulation, same
* reasoning as choosing Level IV and the low end of an impedance
* range elsewhere in this repo) -- not a single pulse. The standard
* specifies a 1 hr test at this repetition rate (order 40000
* pulses); 5 is a practical sample, not the full test, and the
* TOLERANCE section says what that leaves unverified.
* ============================================================

* ---- SMCJ43CA, modelled as the bidirectional part it actually is ----
* The "CA" suffix means bidirectional: two avalanche junctions in
* anti-series inside one package. Until 19 Sep 2026 both this block and
* load_dump.cir modelled it as a SINGLE diode, which is correct for a
* positive transient and silently wrong for anything negative -- one
* junction conducts forward at 0.7 V in reverse polarity, so the model
* would have answered a reverse-battery or negative-pulse question
* confidently and wrongly rather than failing visibly.
*
* Split so the WHOLE device still matches the datasheet it stood for,
* not so each junction does: in avalanche one junction breaks down and
* the other is forward-biased, so BV_total = 36.0 + Vf(0.7) = 36.7 V,
* and the two Rs of 0.175 sum to the 0.35 ohm the single-diode model
* used. Positive-direction behaviour is therefore unchanged by
* construction -- the checks below confirm it rather than assume it.
.model TVSJ D(Is=1e-12 N=1.6 Rs=0.50 BV=47.0 IBV=1e-3)
* 60 V / 20 A class Schottky -- must carry the fault current the source
* impedance allows: 150 V over 10 ohm is 15 A on pulse 1.
.model SCHN D(Is=2e-5 N=1.05 Rs=0.012 BV=60 IBV=1e-4)

.subckt TVSBI a b
* common anode at mid: whichever terminal is positive sees one
* junction in avalanche and one forward, in either direction
DA mid a TVSJ
DB mid b TVSJ
.ends TVSBI

* ============================================================
* Downstream of the TVS node ("bat1"/"bat3a"), spec sec.4's stage
* order puts the reverse-battery FET before the buck: EMI filter ->
* fuse -> TVS -> reverse-battery FET -> buck VIN. reverse_battery
* .cir's ideal-diode controller is modelled there as a switch with
* NO turn-off delay, and its own RESULT NOTE says outright that this
* makes it "always look perfect in reverse" and that the real
* turn-off time is "a datasheet question, not a SPICE question with
* this model." No controller part has been chosen, so that delay is
* not sourced here either -- not estimated, not guessed at.
*
* Rather than pick a delay number this file cannot defend, both
* bookends are modelled directly, from the same TVS-clamped node, as
* two parallel branches:
*
*   _on   FET conducting the whole pulse (Rds(on) = 8 mOhm, the same
*         figure reverse_battery.cir uses) -- the assumption that has
*         to be treated as live for anything faster than a turn-off
*         delay nobody has measured. Pulse 3a's 0.1 ms width is
*         short enough that "the FET had time to react" cannot be
*         assumed without that number.
*   _off  FET open (Roff = 1e9, the same figure reverse_battery.cir
*         uses) -- the idealized, instant-response case. This is
*         reverse_battery.cir's own optimistic result reproduced
*         faithfully, not inherited as fact: it shows what the stage
*         COULD buy if the controller is fast enough, not what it
*         does buy.
*
* The _on branch's own 50 ohm (Rload_on) IS this circuit's
* transient_clamp/load_dump-style "everything downstream" load --
* there is no separate standalone Rload at the TVS node here, unlike
* those two files. Adding one on top of Rload_on would load the node
* twice for the same current path and pull the baseline down to a
* number nothing downstream actually presents (an early version of
* this file did exactly that, at ~9.6 V instead of the ~11.25 V the
* corrected single-load circuit settles to -- caught by hand-checking
* the DC operating point against Rsrc1/(Rsrc1+Rload) before trusting
* any pulse result, the same discipline load_dump's own RESULT NOTE
* asks for). The _off branch's 1e9 draws negligible current either
* way, so it never contends with _on for the same current.
* ============================================================

* ---- Pulse 1: -150 V (Level IV), 10 ohm, 2 ms flat top ----
Vp1    src1 0 PWL(0 13.5  0.2m 13.5  0.24m -136.5  2.24m -136.5
+                  2.26m 13.5  3.5m 13.5)
Rsrc1  src1 bat1 10

Vamm1  bat1 dtvs1 0
XD1a   0 dtvs1 TVSBI
C1a    bat1 0 10u

Rfet_on1   bat1 vbuck_on1  8m
* NEGATIVE CLAMP, added 20 Sep 2026. The TVS holds the battery node at
* its own -47.8 V breakdown, which is a correct clamp and still two
* orders of magnitude outside the buck's -0.3 V rating. This Schottky
* conducts long before the TVS does and pins the buck's VIN near -0.4 V.
* Anode to ground, cathode to VIN: forward-biased exactly when VIN tries
* to go negative, invisible the rest of the time.
Dneg1 0 vbuck_on1 SCHN
Rload_on1  vbuck_on1 0     50
Rfet_off1  bat1 vbuck_off1 1e9
Rload_off1 vbuck_off1 0    50

* ---- Pulse 3a: -220 V (Level IV), 50 ohm, 0.1 ms, 5x at 90 ms ----
* Each pulse: 5 us rise, 90 us flat top, 5 us fall = 100 us total,
* matching the table's 0.1 ms pulse width. Starts at t = 5, 95, 185,
* 275, 365 ms -- 90 ms apart, the standard's own minimum repeat.
Vp3a   src3a 0 PWL(
+  0       13.5    4.995m  13.5    5.000m  -206.5   5.090m  -206.5
+  5.095m  13.5    94.995m 13.5    95.000m -206.5   95.090m -206.5
+  95.095m 13.5    184.995m 13.5   185.000m -206.5  185.090m -206.5
+  185.095m 13.5   274.995m 13.5   275.000m -206.5  275.090m -206.5
+  275.095m 13.5   364.995m 13.5   365.000m -206.5  365.090m -206.5
+  365.095m 13.5   370m    13.5)
Rsrc3a src3a bat3a 50

Vamm3a bat3a dtvs3a 0
XD1b   0 dtvs3a TVSBI
C1b    bat3a 0 10u

Rfet_on3a   bat3a vbuck_on3a  8m
Dneg3a 0 vbuck_on3a SCHN
Rload_on3a  vbuck_on3a 0      50
Rfet_off3a  bat3a vbuck_off3a 1e9
Rload_off3a vbuck_off3a 0     50

.control
tran 1u 3.5m
wrdata negative_pulses_p1.dat v(bat1) v(src1) i(Vamm1) v(vbuck_on1) v(vbuck_off1)
.endc

.control
tran 2u 370m
wrdata negative_pulses_p3a.dat v(bat3a) v(src3a) i(Vamm3a) v(vbuck_on3a) v(vbuck_off3a)
.endc

.end

* ------------------------------------------------------------
* RESULT NOTE
* ------------------------------------------------------------
* Q1 -- what the buck's input pin actually sees:
*
* The LM5164 datasheet's own Absolute Maximum Ratings table (TI,
* fetched and text-extracted directly, not carried over from an
* earlier memo) gives VIN to GND as MIN -0.3 V, MAX 100 V. The
* positive and negative ratings are not mirror images of one
* another -- the negative one is a hundred-plus V tighter.
*
* With the FET assumed ON (see the header -- the assumption that has
* to be treated as live), vbuck_on reaches:
*
*     pulse 1   -40.67 V   (bat1 clamps to -40.68 V, FET drop negligible)
*     pulse 3a  -27.77 V   (bat3a clamps to -27.78 V, at nominal C1 -- see TOLERANCE)
*
* Both are 90-135x past the sourced -0.3 V rating. This is not a
* thin margin the way emi_filter.cir's CISPR gates are -- it is a
* different regime entirely, the same shape as transient_clamp's own
* finding that the buck's 100 V positive rating and pulse 2a's ~50 V
* clamp are comfortably compatible: here the polarity flips the
* verdict, not just the number. FAILS below, on purpose -- see the
* engineering-discipline note in sim/README's own spirit: a check
* that would need weakening to pass is telling you something real.
*
* Q2 -- does the reverse-battery FET help or hurt:
*
* vbuck_off (the idealized, instant-turn-off branch) sits within
* microvolts of 0 V for both pulses -- reproducing reverse_battery
* .cir's own optimistic result faithfully, not endorsing it. That
* file's RESULT NOTE says its switch model "will always look perfect
* in reverse" because it has no turn-off delay, and no controller
* part has been chosen, so no real delay number exists to check
* pulse 3a's 0.1 ms width against. Until one does, the FET-ON branch
* is the one this block trusts, and on that branch the reverse-
* battery stage buys the buck nothing: vbuck_on tracks bat to within
* the FET's negligible 8 mOhm drop, for both pulses. The honest
* answer is "it would help enormously if it reacts in time, and
* nothing here shows whether it does" -- not "it helps."
*
* Q3 -- what the bulk capacitance does:
*
* Pulse 1's 2 ms flat top is long against Rsrc1*C1 = 10*10u = 100 us
* -- C1 has time to fully track the clamp, and removing it in a
* scratch run changes bat1's peak by nothing (-40.6781 V with C1,
* -40.6781 V without, to 4 decimal places). Same conclusion
* transient_clamp reached for pulse 2a, different reason: there it
* was the TVS's own low dynamic resistance dominating a fast pulse;
* here it is C1 having time to fully settle against a slow one.
*
* Pulse 3a is the opposite case, and this is the block's real
* finding. Rsrc3a*C1 = 50*10u = 500 us is FIVE TIMES the 90 us the
* pulse is actually at full amplitude, so C1 cannot follow it --
* the capacitor itself arrests the excursion before the TVS ever
* sees its own breakdown voltage. At nominal C1 = 10 uF, bat3a peaks
* at -27.78 V, which is BELOW the TVS's 36.7 V breakdown -- the TVS
* never conducts at all (i(Vamm3a) is numerically zero throughout).
* See TOLERANCE: this is not a robust result.
*
* Q4 -- pulse 3a is repetitive, does anything accumulate:
*
* Simulated as 5 repeats at the standard's own 90 ms minimum
* spacing (not the full ~40000-pulse, 1 hr test -- see TOLERANCE).
* At nominal C1, every one of the 5 repeats clamps to exactly the
* same -27.7793 V (spread across the burst: 0.0000 V to the
* precision this run resolves), and bat3a returns to exactly its
* 6.7505 V baseline before each subsequent pulse. Nothing drifts.
* Given the TVS carries no current at all in this regime, that is
* almost definitional rather than a finding -- the real accumulation
* question only bites in the TOLERANCE corner where the TVS does
* conduct, addressed there.
*
* A note on the baseline itself: bat1 and bat3a settle to 11.25 V
* and 6.75 V, not 13.5 V, even with no pulse applied. That is
* Rsrc1/Rsrc3a (10 ohm, 50 ohm -- the table's own source-impedance
* figures) forming a divider against the 50 ohm downstream load,
* exactly the same simplification transient_clamp (Rsrc=2 ohm,
* settles to 12.98 V) and load_dump (Rsrc=0.5 ohm, settles to
* 13.37 V) already use and already check against -- pulses 1 and 3a
* simply have much higher table source impedances than 2a or 5b, so
* the same simplification produces a much more visible sag here. Not
* a new approximation, just a more visible instance of the existing
* one. An earlier version of this file accidentally doubled the
* downstream load (a standalone Rload in parallel with the FET
* branch's own Rload_on) and produced a 9.64 V baseline instead --
* caught by hand-checking Vsrc*Rload/(Rload+Rsrc) before trusting any
* pulse result, not by the simulator complaining.
*
* TVS energy, pulse 1 (single event, Level IV): 0.707 J, peak
* instantaneous power 357 W. load_dump.cir's own RESULT NOTE cites a
* class-typical ~0.5 J single-pulse rating (SMBJ-series, no specific
* manufacturer part chosen) for a vendor reference pulse on the order
* of 1 ms -- pulse 1's 2 ms flat top is the same order of magnitude,
* not the four-decades mismatch a "3 W continuous" comparison would
* be (deliberately not used here for that reason: a 2 ms pulse
* dumping 357 W briefly is not a continuous-dissipation question).
* 0.707 J is 41% over that ~0.5 J bound -- a real finding, not
* manufactured: the flat-top pulse shape is pessimistic relative to
* the real standard's decaying pulse (same direction load_dump's own
* trapezoid-vs-exponential note already flags), so this may overstate
* the true energy somewhat, but not by 41%'s worth with any
* confidence -- see TOLERANCE for how much this depends on severity
* level.
* ------------------------------------------------------------

* ------------------------------------------------------------
* TOLERANCE
* ------------------------------------------------------------
* Parameter 1 -- C1, the bulk capacitance at the TVS node. This is
* the parameter Q3 above already flagged as load-bearing for pulse
* 3a specifically. Re-ran in scratch copies, not this file:
*
*     C1 = 10 uF (nominal)   bat3a peak -27.78 V   TVS energy/pulse ~0 J (idle)
*     C1 =  4 uF (-60%)      bat3a peak -38.42 V   TVS energy/pulse 4.23 mJ
*     C1 -> 0                bat3a peak -38.42 V   TVS energy/pulse 9.27 mJ
*
* -60% is not an arbitrary corner -- it is the same DC-bias-under-
* rated-voltage MLCC effect emi_filter.cir's own TOLERANCE section
* documents ("MLCC capacitance under DC bias can lose up to ~60% of
* rated value... a well-documented X7R/X5R effect") for a capacitor
* on the same battery rail. Whether THIS C1 is the same dielectric
* class is not established here -- no part is chosen -- but the
* mechanism is not exotic, and the corner is enough to flip the TVS
* from idle to conducting. The energy at either derated point is
* still two orders of magnitude under the ~0.5 J single-pulse bound,
* so this does NOT change the TVS survivability verdict for pulse
* 3a -- but it means "the TVS never engages during pulse 3a" is a
* nominal-value result, not a robust one, and the buck-exposure
* number for pulse 3a should be read as -27.8 V to -38.4 V, not a
* single figure.
*
* Pulse 1 does not move: bat1 peaks at -40.6781 V with C1 = 10 uF and
* -40.6781 V with C1 removed entirely (Rsrc1*C1 = 100 us against a
* 2 ms flat top -- C1 fully settles either way). The verdict there
* does not hinge on this parameter.
*
* Parameter 2 -- severity level. Level IV (the level memo 06's table
* marks worst-case, and the level transient_clamp/load_dump both
* picked for the same reason) is used throughout above. Re-ran pulse
* 1 at Level III (-112 V, one column left in memo 06's table) in a
* scratch copy:
*
*     Level IV (-150 V, chosen)   bat1 -40.68 V   TVS energy 0.707 J   FAILS 0.5 J bound
*     Level III (-112 V)          bat1 -39.36 V   TVS energy 0.396 J   PASSES 0.5 J bound
*
* Same shape as load_dump's own Us*-vs-breakdown finding: the pulse-1
* energy verdict is not "an SMCJ43CA cannot survive pulse 1," it is
* "at Level IV specifically, it cannot" -- and memo 06 does not state
* which level applies to this installation, only that IV is the
* standard's own worst case for a 12 V system. The buck-exposure
* finding (Q1) does NOT hinge on this: -39.36 V is still ~130x past
* the -0.3 V rating, Level III or IV.
*
* What this section does not cover: the FET-on-vs-off question (Q2)
* is not swept because it is not a continuous parameter -- both ends
* are already modelled directly in the netlist, not estimated. And
* the burst is 5 repeats, not the standard's ~40000 (1 hr at 90 ms
* min. repeat); nothing here rules out a slow thermal drift that
* would only show up over the full test count, and this block does
* not model TVS junction temperature at all (same limitation
* load_dump's own RESULT NOTE states for its own, much larger,
* single-pulse energy question).
* ------------------------------------------------------------
* ------------------------------------------------------------
